US07618990B2
Step 3: 3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-(2,2,2-trifluoroethyl)-1,3-oxazolidin-2-one
2-{[4-(4-Bromophenyl)-1,3-thiazol-2-yl]amino}-4,4,4-trifluorobutan-1-ol (0.700 g, 1.83 mmol), prepared in the previous step, was dissolved in 20 mL of methylene chloride. Triethylamine (2.65 mL, 18.3 mmol) was added and the solution was cooled to 0° C. Triphosgene (1.36 g, 4.6 mmol) was added in two portions and the mixture was stirred at 0° C. for 45 min and then at 25° C. for 2 h. The mixture was diluted with methylene chloride and poured into 250 mL of saturated aqueous sodium bicarbonate and the layers were separated. The organics were washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. Flash chromatography (5% acetone/hexane) afforded the title compound (0.62 g, 83%) as a white solid. mp 163-165° C. HRMS: calcd for C14H10BrF3N2O2S+H+, 406.96712; found (ESI, [M+H]+), 406.9679. Analytical HPLC: retention time 10.8 min, 210-370 nm the Xterra® RP18 column, 3.5%, 150×4.6 mm 40° C. 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min, 1.2 mL/min 5 μL injection.

reactant | 2-{[4-(4-Bromophenyl)-1,3-thiazol-2-yl]amino}-4,4,4-trifluorobutan-1-ol | 1.83 mmol, 0.700 g | BrC1=CC=C(C=C1)C=1N=C(SC1)NC(CO)CC(F)(F)F | C13H12BrF3N2OS
reactant | Triethylamine | 18.3 mmol, 2.65 mL | C(C)N(CC)CC | C6H15N
reactant | Triphosgene | 4.6 mmol, 1.36 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-(2,2,2-trifluoroethyl)-1,3-oxazolidin-2-one | 0.62 g, 83% | BrC1=CC=C(C=C1)C=1N=C(SC1)N1C(OCC1CC(F)(F)F)=O | C14H10BrF3N2O2S
